US07101912B2
Cyclohexyl (S)-3-(3,4-dihydroxyphenyl)-2-hydrazino-2-methylpropanoate (226)
Acetyl chloride (1 mL) was slowly added to cyclohexanol (5 mL) at 0° C. After stirring at 0° C. for 10 min, carbidopa (294 mg, 1.5 mmol) was added slowly as solid. The resulting mixture was warmed to 50° C. for 16 h. After cooling to room temperature, ethyl acetate (40 mL) was added and product was extracted with water (4×5 mL), then the aqueous phase was lyophilized to give the crude product. HPLC of the crude product afforded 50 mg of the title compound as an oil. 1H NMR (CD3OD): δ 1.46 (s, 3H), 1.52–1.80 (m, 10H), 2.92 (dd, J=13.6 Hz, 2H,), 4.85 (m, 1H), 6.49 (d, J=7.6 Hz, 1H), 6.59 (s, 1H), 6.68 (d, J=7.6 Hz, 1H). MS (ESI) m/z 309.3 (M+H+).

reactant | Acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | cyclohexanol | 5 mL | C1(CCCCC1)O | C6H12O
reactant | carbidopa | 1.5 mmol, 294 mg | C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)NN | C10H14N2O4
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | Cyclohexyl (S)-3-(3,4-dihydroxyphenyl)-2-hydrazino-2-methylpropanoate | 50 mg | OC=1C=C(C=CC1O)C[C@](C(=O)OC1CCCCC1)(C)NN | C16H24N2O4
